.title Woolly Mammoth

VCC 9 0 DC 9

* two stage amplifier

R3 9 1 51k
R4 9 2 20k
Q1 1 3 0 Q2N3904 Is=4.639e-15 Bf=160.1 Br=5.944 Vt=0.026
Q2 2 1 5 Q2N3904 Is=4.639e-15 Bf=160.1 Br=5.944 Vt=0.026

R2 3 4 100k
Ppinch 4 5 8 500k Pos=0.5 Taper=LIN
*Rwire1 8 5 1m
W1 8 5

C6 5 6 100e-6
R1 8 0 2.2k
Pwool 6 11 0 2k Pos=0.5 Taper=LIN

C1 7 3 0.22e-6
C2 3 0 10e-9

* tone stack

C3 2 10 10e-9
C5 2 11 100e-6
R5 11 10 10k
R5b 11 10 15k

R6 11 12 5.1k
C4 12 0 7.4e-9
C4b 12 0 220e-9

Peq 12 10 13 10k Pos=0.5 Taper=LIN
Pvol 13 0 14 10k Pos=0.9 Taper=LIN

.input 7
.output 14
.warmup 60
.ctrl 0 Ppinch
.ctrl 1 Pwool
.ctrl 2 Peq
.ctrl 3 Pvol
.probe wolly-mammoth.csv V(14)